US08003703B2
(i) (4-Chloro-2-nitrophenoxy)-acetic acid, ethyl ester
The subtitle compound was prepared by the method of example 1 step (iv) using ethyl bromoacetate and 4-chloro-2-nitrophenol Yield 1.4 g

reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | 4-chloro-2-nitrophenol | Yield 1.4 g | ClC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
product | (4-Chloro-2-nitrophenoxy)-acetic acid, ethyl ester | ClC1=CC(=C(OCC(=O)OCC)C=C1)[N+](=O)[O-] | C10H10ClNO5
